US07037921B2
[3-(3-Methyl-4-oxo-5H-2-oxa-1,5,8-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexylmethyl]-carbamic acid benzyl ester
Dissolve (3-{[3-(4-chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carbonyl]-amino}-cyclohexylmethyl)-carbamic acid benzyl ester (0.63 g, 0.0013 mol) in N,N-dimethylformamide (10 mL) at ambient temperature under a nitrogen atmosphere. Add a solution of potassium bis(trimethylsilyl)amide (0.5 M in toluene, 3.12 mL, 0.0016 mol) and stir for 15 min. at ambient temperature. Quench the dark mixture with water and follow by the addition of solid sodium chloride. Extract with ethyl acetate and wash the combined extracts with water and dry over sodium sulfate. Concentrate and elute over silica gel with methanol/dichloromethane to give 0.47 g (81%) of the desired product as a white solid. MS(ES): (M+1)+ 447.2, 448.2 m/z.

reactant | (3-{[3-(4-chloro-pyridin-3-yl)-5-methyl-isoxazole-4-carbonyl]-amino}-cyclohexylmethyl)-carbamic acid benzyl ester | 0.0013 mol, 0.63 g | C(C1=CC=CC=C1)OC(NCC1CC(CCC1)NC(=O)C=1C(=NOC1C)C=1C=NC=CC1Cl)=O | C25H27ClN4O4
reactant | potassium bis(trimethylsilyl)amide | 0.0016 mol, 0.5 M, 3.12 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | [3-(3-Methyl-4-oxo-5H-2-oxa-1,5,8-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexylmethyl]-carbamic acid benzyl ester | 0.47 g, 81% | C(C1=CC=CC=C1)OC(NCC1CC(CCC1)N1C(C=2C(C3=CN=CC=C13)=NOC2C)=O)=O | C25H26N4O4
